US07842696B2
A solution of (1-biphenyl-4-yl-ethyl)-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (140 mg, 0.23 mmol in dioxane.HCl (10 ml) was stirred at room temperature for 1 hr. The reaction mixture was concentrated to get the residue. The residue was washed with hexane to afford 98 mg (78.4% Yield) of 2-(1-Biphenyl-4-yl-ethylamino)-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride. LCMS Purity: 93.9%. 1H NMR (CDCl3): δ 9.6 (d, 3H), 8.0 (t, 1H), 7.8-7.6 (m, 6H), 7.6-7.36 (m, 5H), 4.5 (t, 1H), 4.2-3.6 (m, 2H), 3.6-3.4 (m, 5H), 3.2-3.0 (m, 3H), 1.6 (t, 3H).

reactant | (1-biphenyl-4-yl-ethyl)-{2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C(C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C33H35F4N3O4
reactant | HCl | 10 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(1-Biphenyl-4-yl-ethylamino)-1-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride | 98 mg, 78.4% Yield | Cl.C1(=CC=C(C=C1)C(C)NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O)C1=CC=CC=C1 | InChI=1S/C28H27F4N3O2.ClH/c1-19(20-7-9-22(10-8-20)21-5-3-2-4-6-21)33-18-26(36)34-13-15-35(16-14-34)27(37)24-17-23(29)11-12-25(24)28(30,31)32;/h2-12,17,19,33H,13-16,18H2,1H3;1H
